US06403610B1
0.565 g of sodium cyanide was added to a stirred solution of 1.3 g of (3R,4R)-3-chloromethyl-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine in 50 cm3 of dimethyl sulfoxide and then the mixture was heated at a temperature in the region of 60° C. for 20 hours. After cooling, the reaction mixture was poured onto 500 cm3 of water and then extracted with 2 times 200 cm3 of diethyl ether. The combined extracts were dried over magnesium sulfate, filtered, and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm, diameter 2 cm; 32 g), elution was carried out with ethyl acetate, and 15-cm3 fractions were collected. Fractions 12 to 19 were combined and then evaporated (5 kPa) at a temperature in the region of 40° C. 0.34 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-phenylpropyl]piperidine-3-acetonitrile was obtained in the form of an oil with a yellow color.

reactant | sodium cyanide | 0.565 g | [C-]#N.[Na+]
reactant | (3R,4R)-3-chloromethyl-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine | 1.3 g | ClC[C@H]1CN(CC[C@H]1CCCC1=CC=NC2=CC=C(C=C12)OC)CCCC1=CC=CC=C1 | C28H35ClN2O
reactant | water | 500 cm3 | O | H2O
solvent | dimethyl sulfoxide | 50 cm3 | CS(=O)C | C2H6OS
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-phenylpropyl]piperidine-3-acetonitrile | 0.34 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCCC1=CC=CC=C1)CC#N | C29H35N3O
